US05866724
Into a 100 ml four-necked flask were charged 23.71 g of 1,1-bis(4-hydroxy-3-methylphenyl)-cyclohexane["Bis-OC--Z" manufactured by Honshu Kagaku Co., Ltd.], 4.48 g of sodium hydroxide and 44.8 g of water. While stirring at 50° C., 25.97 g of 37% formaldehyde was added dropwise thereto over 1 hour, and the reaction was conducted for 1 more hour. After completion of the reaction, 11 g of 90% aqueous acetic acid solution was added for neutralization and then the mixture was cooled to 25° C. Thereafter, 100 g of ethyl acetate and 20 g of toluene were added thereto and a phase separation was carried out. Then, the resulting mixture was concentrated to obtain 28.5 g of 1,1-bis(4-hydroxy-3-hydroxymethyl-5-methylphenyl)-cyclohexane.

reactant | 1,1-bis(4-hydroxy-3-methylphenyl)-cyclohexane | 23.71 g | OC1=C(C=C(C=C1)C1(CCCCC1)C1=CC(=C(C=C1)O)C)C | C20H24O2
reactant | sodium hydroxide | 4.48 g | [OH-].[Na+]
reactant | water | 44.8 g | O | H2O
reactant | formaldehyde | 25.97 g | C=O | CH2O
reactant | toluene | 20 g | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 g | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 11 g | C(C)(=O)O | C2H4O2
product | 1,1-bis(4-hydroxy-3-hydroxymethyl-5-methylphenyl)-cyclohexane | 28.5 g | OC1=C(C=C(C=C1C)C1(CCCCC1)C1=CC(=C(C(=C1)C)O)CO)CO | C22H28O4
